US03957783
A mixture of 11.7 g of 2-methylamino-3-(o-chlorobenzoyl)-5-ethylthiophene, 11.18 g of ethyl carbamate and 0.86 g of zinc chloride is heated at 200°C for 1 hour. After cooling, the reaction mixture is extracted with chloroform. The extracts are combined, washed with water, dried over sodium sulfate and contentrated to dryness under reduced pressure. The residue is chromatographed on silica gel using chloroform as an eluent to give 1-methyl-4-(o-chlorophenyl)-6-ethyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one as crystals having a melting point of 99°-χ°C (after recrystallization from isopropanol).

reactant | 2-methylamino-3-(o-chlorobenzoyl)-5-ethylthiophene | 11.7 g | CNC=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC | C14H14ClNOS
reactant | ethyl carbamate | 11.18 g | C(N)(OCC)=O | C3H7NO2
catalyst | zinc chloride | 0.86 g | [Cl-].[Zn+2].[Cl-]
product | 1-methyl-4-(o-chlorophenyl)-6-ethyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one | CN1C(N=C(C2=C1SC(=C2)CC)C2=C(C=CC=C2)Cl)=O | C15H13ClN2OS
